US06723722B1
1-{Allyl[1-(4-pyridyl)-4-piperidinyl]amino}-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone
Similarly to Method A in Example 38 and using 1-[1-(tert-butoxycarbonyl)-4-piperidinylamino]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone (390 mg) and allyl bromide (2 ml) instead of methyl iodide, the title compound (69 mg) was obtained as colorless crystals.

reactant | 1-[1-(tert-butoxycarbonyl)-4-piperidinylamino]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone | 390 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C24H31ClN4O5S
reactant | allyl bromide | 2 ml | C(C=C)Br | C3H5Br
product | 1-{Allyl[1-(4-pyridyl)-4-piperidinyl]amino}-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone | 69 mg | C(C=C)N(N1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O)C1CCN(CC1)C1=CC=NC=C1 | C27H30ClN5O3S
